US08791139B2
5.00 g (18.8 mmol) of methyl 1-(3-chloropyridin-2-yl)-3-formyl-1H-pyrazole-5-carboxylate (known from WO 2006/000336) and 5.76 g (28.2 mmol) of trimethylsulphonium iodide were initially charged in 12.5 ml of dimethyl sulphoxide, and 2.64 g (23.5 mmol) of t-BuOK in 12.5 ml of dimethyl sulphoxide were added dropwise at room temperature. After 1.5 hours of stirring at room temperature, 60 ml of water were carefully added dropwise with ice cooling, whereupon the reaction mixture was extracted repeatedly with ethyl acetate. The combined organic phases were washed three times with water and then dried over magnesium sulphate. The solvent was distilled off under reduced pressure and the residue was chromatographed on silica gel, which gave 1.10 g (21% of theory) of methyl 1-(3-chloropyridin-2-yl)-3-(oxiran-2-yl)-1H-pyrazole-5-carboxylate. (logP: 1.67; MH+: 280.0; 1H-NMR (400 MHz, CD3CN, δ, ppm): 3.10 (m, 2H), 3.71 (s, 3H), 3.98 (s, 1H), 6.92 (s, 1H), 7.56 (m, 1H), 8.07 (m, 1H), 8.51 (m, 1H).)

reactant | methyl 1-(3-chloropyridin-2-yl)-3-formyl-1H-pyrazole-5-carboxylate | 18.8 mmol, 5.00 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C=O | C11H8ClN3O3
reactant | trimethylsulphonium iodide | 28.2 mmol, 5.76 g | [I-].C[S+](C)C
reactant | t-BuOK | 23.5 mmol, 2.64 g | CC(C)(C)[O-].[K+]
reactant | water | 60 ml | O | H2O
solvent | dimethyl sulphoxide | 12.5 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 12.5 ml | CS(=O)C | C2H6OS
product | methyl 1-(3-chloropyridin-2-yl)-3-(oxiran-2-yl)-1H-pyrazole-5-carboxylate | 1.10 g, 21% | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)C1OC1 | C12H10ClN3O3
